Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Demerol / morphine
 
Attending: ___.
 
Chief Complaint:
Ischemic Pain. 

 
Major Surgical or Invasive Procedure:
PROCEDURES:  Ultrasound-guided vascular access, abdominal
aortogram, cath placement contralateral second-order.

OPERATION:
1. Ultrasound-guided puncture of right common femoral
    artery.
2. Contralateral second-order catheterization of left
    external iliac artery.
3. Serial arteriogram of left lower extremity.

PROCEDURE:  Extensive left iliofemoral
endarterectomy/profundoplasty with saphenous vein
angioplasty.

 
History of Present Illness:
___ h/o b/l CEAs, unknown "abdominal
vascular bypass," and L common iliac artery stent placement
admitted L lower leg ischemia and ulceration. Patient has a 
known
history of L leg ischemia, with pain for ___ years and 
ulceration
between left ___ toe for ___ years. Followed by vascular
surgeon in ___. Had unknown right-sided bypass procedure.
Angiogram ___ demonstrated L SFA occlusion w/ distal
reconstitution, diffuse tibial disease, and L foot supplied
through AT; a stent was placed in her left common iliac artery 
at
this time. Angiogram at this time demonstrated Has claudication
in right foot and rest pain in left foot. Has pins and needle
sensation in left foot. Left foot cold chronically. No numbness
or weakness in foot.

Also has had daily episodes of falling since last week. Was on
the floor for several hours after last episodes. Patient denies
precipitating events, though may have slipped on carpet several
times. No loss of consciousness. Has brief episodes of 
dizziness.
No transient episodes of visual changes, sensory changes, or
weakness. Carotid ultrasound on ___ demonstrated 60-69%
stenosis bilaterally.

 
Past Medical History:
- HTN - HLD - TIA in ___ and stroke in ___ - MI ___ on Plavix
- Carpal tunnel syndrome - Colonic polyps - Intestinal angio - 
dysplasia - Pneumonia - CHF - L kidney infart - Arthritis - 
Jaundice - Uterine fibroid - Benign breast tumor

PSHx:
Right CEA ___, L CEA ___, Redo R CEA ___, Abdominal "vascular 
bypass", CCY, Appendectomy, Hysterectomy, Tonsillectomy, Thumb 
unlock, Cataract surgery, L thumb unlocked, L breast biopsy,
Endoscopy

 
Social History:
___
Family History:
Mother died of pancreatic ca at ___
Daughters with ___ lymphoma
 
Physical Exam:
PHYSICAL EXAM
Vital Signs: Temp: 97.5 RR: 18 Pulse: 76 BP: ___  
Neuro/Psych: Oriented x3, Affect Normal, NAD, abnormal: Thin. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, abnormal: B/l carotid bruits,
L>R. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.

Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses. 
Rectal: Not Examined. 
Extremities: No femoral bruit/thrill, No RLE edema, No LLE 
Edema,
No varicosities, abnormal: L foot cyanosis. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. 
LUE Radial: P. 
RLE Femoral: P. Popiteal: D. DP: D. ___: N. 
LLE Femoral: P. Popiteal: D. DP: N. ___: N. 
 
DESCRIPTION OF WOUND: 2 mm ulcer plantar surface L foot without
surrounding erythema or drainage
 

 
Pertinent Results:
___ 05:41AM BLOOD 

WBC-7.7 RBC-3.48* Hgb-10.8* Hct-30.8* MCV-88 MCH-31.1 MCHC-35.2* 
RDW-18.0* Plt ___

___ 05:41AM BLOOD 

___ PTT-45.7* ___

___ 05:41AM BLOOD 

Glucose-111* UreaN-24* Creat-1.2* Na-139 K-3.6 Cl-101 HCO3-29 
AnGap-13

___ 05:17PM 

URINE Color-Straw Appear-Clear Sp ___
URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

___ 1:19 am URINE      Source: Catheter. 

URINE CULTURE (Final ___: 

ESCHERICHIA COLI.    PRESUMPTIVE IDENTIFICATION. >100,000 
ORGANISMS/ML.

                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

ECHO:

Conclusions  

Left ventricular wall thicknesses and cavity size are normal. 
There is moderate regional left ventricular systolic dysfunction 
with near-akinesis of the mid- and distal segments of the 
anterior wall and septum. True LV apex is incompletely 
visualized, but also appears hypo-/akinetic. The remaining 
segments contract normally (LVEF = 35%). Right ventricular 
chamber size is normal. with focal hypokinesis of the apical 
free wall. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

IMPRESSION: Moderate regional biventricular systolic 
dysfunction, c/w LAD-territory infarction. Mild mitral 
regurgitation.

STRESS:

INTERPRETATION: This ___ year old woman with a PMH of PVD and MI 
___ 
was referred to the lab prior to peripherial vascular surgery. 
The 
patient was infused with 0.142 mg/kg/min of dipyridamole over 4 
minutes. 
No arm, neck, back or chest discomfort was reported by the 
patient 
throughout the study. There were no significant ST segment 
changes 
during the infusion or in recovery. The rhythm was sinus with 1 
isolated apb and vpb. Appropriate hemodynamic response to the 
infusion 
or in recovery. The dipyridamole was reversed with 125 mg of 
aminophylline IV. 

IMPRESSION: No anginal type symptoms or ischemic EKG changes to 
pharmacologic stress. Nuclear report sent separately. 

PMIBI:

INTERPRETATION:  
  
The image quality is adequate but limited due to soft tissue and 
motion. There is left arm attenuation in both sets of images, 
but the arm is across the inferior aspect of the heart inthe 
stress images. 
  
Left ventricular cavity size is normal. 
  
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium.  
  
Gated images reveal normal wall motion.  
  
The calculated left ventricular ejection fraction is 72% with an 
EDV of 51 ml.  
  
IMPRESSION: 
  
1. Normal myocardial perfusion. 
  
2. Normal left ventricular cavity size and systolic function. 

HAND FILMS:

1. Concern for a nondisplaced scaphoid waist fracture. 
  
2. Generalized demineralization. 
  
3. Chondrocalcinosis. 

 

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on ___ 
and had a multiple procedures, two angiograms and a Extensive 
left iliofemoral endarterectomy profundoplasty with saphenous 
veinangioplasty.

The patient tolerated the procedure well. 

Neuro: Post-operatively, the patient received Narcotics with 
good effect and adequate pain control. When tolerating oral 
intake, the patient was transitioned to oral pain medications. 

CV: Post op pt had flash pulmonary edema which resulted in a 
NSTEMI. Pt was diuresed. Had a PMIBI and Stress. See pertinant 
results. Pt was refusing cardiac cath. CHF EF >55%. Diastolic 
acute on chronic CHF exaserbation

Pulmonary: See above

GI: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. Her diet was advanced when appropriate, 
which was tolerated well. He/She was also started on a bowel 
regimen to encourage bowel movement.

GU: Foley was removed on POD#3. Intake and output were closely 
monitored. pt was also found to have UTI. Completed course of 
cefazolin. Pt on admission ws found to have ARF. Secondary to 
dehydration. Creatinine was 3.5 on DC 1.2. 

ID: The patient was started on IV cefazolin for UTI, switched to 
PO. Finished full course. The patient's temperature was closely 
watched for signs of infection. 

Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 

At the time of discharge on POD 16, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.

 
Medications on Admission:
furosemide 20', folic acid 1', metopropol succ 50', atorvastatin 
80', clopidogrel 75', fexofenadine 60", verapamil SR 120', ASA 
81', lisinopril 5', paroxetine 20, Miralax, KCl 
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  
7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. paroxetine HCl 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. metoprolol succinate 50 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
10. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q3H (every 3 
hours) as needed for pain: prn for pain.  
14. tramadol 50 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for pain.  
15. ipratropium bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed for SOB.  
16. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
17. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Flash pulm edema
Falls   
Hypotension 
ARF   
CHF  - EF >55%    
UTI  
PVD  
Constipation  
MI
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Bypass Surgery Discharge Instructions

What to expect when you go home:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___